US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-bromo-1-benzothiophene-2-carboxamide hydrochloride
903.8 mg (3.52 mmol) of 7-bromo-1-benzothiophene-2-carboxylic acid, 700.0 mg (3.52 mmol) of R-aminoquinulidine dihydrochloride, 1604.0 mg (4.22 mmol) of HATU, 1635.7 mg (12.66 mmol) of N,N-diisopropylethylamine and 7.0 ml of DMF are reacted by general method B. The reaction mixture is purified by preparative HPLC. The product is dissolved in a 1:1 mixture of 4 M HCl in dioxane and 1 N hydrochloric acid and then concentrated and dried under high vacuum. 1087 mg (77% of theory) of the title compound are obtained.

reactant | 7-bromo-1-benzothiophene-2-carboxylic acid | 3.52 mmol, 903.8 mg | BrC1=CC=CC=2C=C(SC21)C(=O)O | C9H5BrO2S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | HATU | 4.22 mmol, 1604.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 12.66 mmol, 1635.7 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-bromo-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC=C1Br | InChI=1S/C16H17BrN2OS.ClH/c17-12-3-1-2-11-8-14(21-15(11)12)16(20)18-13-9-19-6-4-10(13)5-7-19;/h1-3,8,10,13H,4-7,9H2,(H,18,20);1H/t13-;/m0./s1
